US09079911B2
Intermediate 81: 3-Methyl-2-(2H-1,2,3-triazol-2-yl)benzonitrile
To a mixture of 2-fluoro-3-methylbenzonitrile (4.0 g, 29.6 mmol) and 2H-1,2,3-triazole (2.04 g, 29.6 mmol) in DMF (80 mL) was added potassium carbonate (8.26 g, 59.2 mmol). The resulting mixture was heated to 120° C. for 2 h. The mixture was cooled, diluted with water and extracted with EtOAc. The organic layers were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by FCC (SiO2, ethyl acetate/hexanes, gradient 0-50%) to yield the title compound (1.5 g, 26%). MS (ESI) mass calcd. for C10H8N14, 184.2; m/z found, 185.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 7.95 (s, 2H), 7.66 (d, J=7.7, 0.7 Hz, 1H), 7.59 (d, J=7.8, 0.6 Hz, 1H), 7.50 (dd, J=9.8, 5.7 Hz, 1H), 2.20 (s, 3H).

reactant | 2-fluoro-3-methylbenzonitrile | 29.6 mmol, 4.0 g | FC1=C(C#N)C=CC=C1C | C8H6FN
reactant | 2H-1,2,3-triazole | 29.6 mmol, 2.04 g | N=1NN=CC1 | C2H3N3
reactant | potassium carbonate | 59.2 mmol, 8.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-Methyl-2-(2H-1,2,3-triazol-2-yl)benzonitrile | 1.5 g, 26% | CC=1C(=C(C#N)C=CC1)N1N=CC=N1 | C10H8N4
